US07361198B2
Preparation of 1,3-diamino-4-[2-(4-methylphenyl)ethyl]benzene
1.4 g of 1,3-dinitro-4-[2-(4-methylphenyl)ethenyl]benzene prepared as described by S. Saravanan and P. Srinivasan, Synth. Commun. 31(6), pages 823-826 (2001) was dissolved in 50 mL of ethanol and hydrogenated using 0.2 g of Pd/C 10% for 4 hours at 8 bar of hydrogen pressure. The catalyst was then filtered off, and the filtrate was evaporated to dryness. This gave a brownish oil which upon addition of 10 mL of ether crystallized. Yield: 1.1 g of yellowish oil.

reactant | 1,3-dinitro-4-[2-(4-methylphenyl)ethenyl]benzene | 1.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)C=CC1=CC=C(C=C1)C)[N+](=O)[O-] | C15H12N2O4
reactant | hydrogen | [H][H] | H2
reactant | ether | 10 mL | CCOCC | C4H10O
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 1,3-diamino-4-[2-(4-methylphenyl)ethyl]benzene | NC1=CC(=C(C=C1)CCC1=CC=C(C=C1)C)N | C15H18N2
